US05369110
A solution of 0.75 g (6.5 mmol) of methanesulfonic acid chloride in 5 ml of dichloromethane is added dropwise, with stirring, to a solution of 1.8 g (5 mmol) of 2-(S)-amino-N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-3-methyl-butanoic acid amide and 1.4 ml (8 mmol) of Hunig base in 10 ml of dichloromethane. The reaction mixture is stirred at room temperature for a further 5 hours, diluted with 50 ml of dichloromethane and extracted with 20 ml of 4N hydrochloric acid. The dichloromethane phase is separated, washed in succession with water, 10 ml of bicarbonate solution and brine, dried and concentrated by evaporation to yield crude N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-2-(S)-methanesulfonylamino-3-methylbutanoic acid amide in the form of a yellowish oil of Rf value 0.56 [toluene/isopropanol/glacial acetic acid (170:30:2)]that can be used in the next step without being further purified.

reactant | methanesulfonic acid chloride | 6.5 mmol, 0.75 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(S)-amino-N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-3-methyl-butanoic acid amide | 5 mmol, 1.8 g | N[C@H](C(=O)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCCC)C(C)C | C23H29N3O
reactant | Hunig base | 8 mmol, 1.4 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-butyl-N-(2'-cyanobiphenyl-4-ylmethyl)-2-(S)-methanesulfonylamino-3-methylbutanoic acid amide | C(CCC)N(C([C@H](C(C)C)NS(=O)(=O)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H31N3O3S
